US08030305B2
4-(6-Thiophen-2-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-phenol
A solution containing 3-Chloro-6-thiophene-2-yl-pyridazine (58 mg, 0.29 mmol) Example 17: step a and (4-Hydroxy-phenyl)-acetic acid hydrazide (120 mg, 0.58 mmol) in butanol (5 mL) was heated to reflux overnight. The reaction was cooled to rt and the solids were filtered and washed with MeOH. The solid was recrystalized from MeOH to yield the title compound as a tan solid. 1H-NMR (CD3OD/CDCl3): δ 8.12-8.10 (1H, d, J=9.34 Hz), 7.83-7.82 (1H, d, J=3.7 Hz), 7.78-7.76 (1H, d, J=9.8 Hz), 7.67-7.65 (1H, d, J=5.0 Hz), 7.34-7.32 (2H, d, J=6.5 Hz), 7.22-7.21 (1H, m), 6.77-6.75 (2H, d, J=8.3 Hz), 4.49 (2H, s). ESI-MS (m/z): Calcd. For C16H12N4OS: 308.07; found: 309.2 (M+H).

reactant | 3-Chloro-6-thiophene-2-yl-pyridazine | 0.29 mmol, 58 mg | ClC=1N=NC(=CC1)C=1SC=CC1 | C8H5ClN2S
reactant | (4-Hydroxy-phenyl)-acetic acid hydrazide | 0.58 mmol, 120 mg | OC1=CC=C(C=C1)CC(=O)NN | C8H10N2O2
solvent | butanol | 5 mL | C(CCC)O | C4H10O
product | 4-(6-Thiophen-2-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-phenol | S1C(=CC=C1)C=1C=CC=2N(N1)C(=NN2)CC2=CC=C(C=C2)O | C16H12N4OS
